US07737149B2
Ethyl 4-fluorobenzoate (0.225 mL, 1.53 mmol) and 1-cyclobutylpiperazine (0.430 g, 3.07 mmol) were taken up in DMA (3 mL) and sealed into a microwave tube. The reaction was heated to 150° C. for 90 mins in the microwave reactor and cooled to room temperature. The reaction was not complete, so it was reheated at 150° C. for a further 1 h. The reaction mixture was evaporated to dryness and the crude product purified by silica column chromatography, eluting with a gradient of 0-2.5% MeOH in DCM. Pure fractions were evaporated to dryness to afford ethyl 4-(4-cyclobutylpiperazin-1-yl)benzoate (0.050 g, 11.31%) as a yellow solid.

reactant | Ethyl 4-fluorobenzoate | 1.53 mmol, 0.225 mL | FC1=CC=C(C(=O)OCC)C=C1 | C9H9FO2
reactant | 1-cyclobutylpiperazine | 3.07 mmol, 0.430 g | C1(CCC1)N1CCNCC1 | C8H16N2
solvent | DMA | 3 mL | CC(=O)N(C)C | C4H9NO
product | ethyl 4-(4-cyclobutylpiperazin-1-yl)benzoate | 0.050 g, 11.31% | C1(CCC1)N1CCN(CC1)C1=CC=C(C(=O)OCC)C=C1 | C17H24N2O2
